US05925611
Preparation of (CF3)2CFCF2OC2H5
The title compound was prepared essentially as in Example 1 using anhydrous potassium fluoride (31.9 g, 0.55 mole), anhydrous dimethyl formamide (184 g), perfluoroisobutryl fluoride (112.3 g of 77% purity, 0.4 mole), and diethyl sulfate (100.1 g, 0.65 mole). The resulting mixture was worked up essentially as in Example 3 to yield 80 g of the title compound. The product identity was confirmed by IR, GCMS, and 1H and 19F NMR.

reactant | potassium fluoride | 0.55 mole, 31.9 g | [F-].[K+]
reactant | perfluoroisobutryl fluoride | 0.4 mole, 112.3 g | FC(C(=O)F)(C(F)(F)F)C(F)(F)F | C4F8O
reactant | diethyl sulfate | 0.65 mole, 100.1 g | S(=O)(=O)(OCC)OCC | C4H10O4S
solvent | dimethyl formamide | 184 g | CN(C=O)C | C3H7NO
product | (CF3)2CFCF2OC2H5 | 80 g | C(F)(C(F)(F)F)(C(F)(F)F)C(F)(F)OCC | C6H5F9O
